US06900227B2
Preparation of [2,2-bis-(3-bromo-phenyl)-6-fluoro-benzo[1,3]dioxol-5-yl]-morpholin-4-yl-methanone
79 mg bis-(3-bromophenyl)-dichloromethane and 48 mg (2-fluoro-4,5-dihydroxy-phenyl)-morpholin-4-yl-methanone were heated to 180° C. for one hour. Chromatography of the dark residue gave 30 mg of an off-white waxy solid, MS: m/e=564 ([M+H])+.

reactant | bis-(3-bromophenyl)-dichloromethane | 79 mg | BrC=1C=C(C=CC1)C(Cl)(Cl)C1=CC(=CC=C1)Br | C13H8Br2Cl2
reactant | (2-fluoro-4,5-dihydroxy-phenyl)-morpholin-4-yl-methanone | 48 mg | FC1=C(C=C(C(=C1)O)O)C(=O)N1CCOCC1 | C11H12FNO4
product | [2,2-bis-(3-bromo-phenyl)-6-fluoro-benzo[1,3]dioxol-5-yl]-morpholin-4-yl-methanone | BrC=1C=C(C=CC1)C1(OC2=C(O1)C=C(C(=C2)C(=O)N2CCOCC2)F)C2=CC(=CC=C2)Br | C24H18Br2FNO4
